US07452886B2
To a solution of 0.5 g (1.63 mmoles) of 6-bromomethyl-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile in DMF (5 ml) are added 0.653 g of (2.45 mmoles) of (R)-1-(4-chloro-benzyl)-5-isopropyl-imidazolidine-2,4-dione and 0.293 g (2.12 mmoles) of K2CO3 at ambient temperature under N2 atmosphere. The mixture is stirred at ambient temperature for 15 hours. The mixture is diluted with ethyl acetate, washed with water and brine, dried over MgSO4 and concentrated. The crude product is purified by silica gel column chromatography to give 0.644 g of desired 6-[(R)-3-(4-chloro-benzyl)-4-isopropyl-2,5-dioxo-imidazolidin-1-ylmethyl]-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile in 78% yield.

reactant | 6-bromomethyl-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 1.63 mmoles, 0.5 g | BrCC1=CC2=C(N=C(N=C2)C#N)N1CC(C)(C)C | C13H15BrN4
reactant | (R)-1-(4-chloro-benzyl)-5-isopropyl-imidazolidine-2,4-dione | 2.45 mmoles, 0.653 g | ClC1=CC=C(CN2C(NC([C@H]2C(C)C)=O)=O)C=C1 | C13H15ClN2O2
reactant | K2CO3 | 2.12 mmoles, 0.293 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[(R)-3-(4-chloro-benzyl)-4-isopropyl-2,5-dioxo-imidazolidin-1-ylmethyl]-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 0.644 g, 78% yield | ClC1=CC=C(CN2C(N(C([C@H]2C(C)C)=O)CC2=CC3=C(N=C(N=C3)C#N)N2CC(C)(C)C)=O)C=C1 | C26H29ClN6O2
